US07601736B2
4-methyl-nicotinonitrile (2.0 g, 16.93 mmol) was dissolved in20 mL of anhydrous THF(20 mL), added with LHMDS (1M solution in THF, 34 mL, 33.86 mmol) at −78° C. under the nitrogen atmosphere and then stirred for about 1 hour at the same temperature. The mixture was dropwisely added with benzaldehyde (2.1 mL, 20.32 mmol) and stirred at −50° C. for about 1 hour. The mixture, while being stirred at 0° C., added with 30 mL of saturated solution of ammonium chloride and 50 ML of distilled water, and then extracted twice with 100 ML of EtOAc. The resulting organic layer was washed with a saturated solution of sodium chloride, dried with anhydrous sodium sulfate, filtered and concentrated. A silica gel column chromatography (2% MeOH/MC) was performed on the resulting residue and obtained 3.46 g (91%) of 4-(2-hydroxy-2-phenyl-ethyl)-nicotinonitrile in pale yellow solid.

reactant | 4-methyl-nicotinonitrile | 16.93 mmol, 2.0 g | CC1=CC=NC=C1C#N | C7H6N2
reactant | LHMDS | 33.86 mmol, 1M, 34 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzaldehyde | 20.32 mmol, 2.1 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(2-hydroxy-2-phenyl-ethyl)-nicotinonitrile | 3.46 g, 91% | OC(CC1=CC=NC=C1C#N)C1=CC=CC=C1 | C14H12N2O
